US08580831B2
5-(3-Fluoro-5-methyl-phenyl)-2-methyl-oxazole-4-carboxylic acid {2-[5-(1,1-difluoro-ethyl)-furan-2-ylmethyl]-2H-[1,2,3]triazol-4-yl}-amide
Following general procedure Z2, starting from 2-[5-(1,1-difluoro-ethyl)-furan-2-ylmethyl]-2H-[1,2,3]triazol-4-ylamine and 5-(3-fluoro-5-methyl-phenyl)-2-methyl-oxazole-4-carboxylic acid.

reactant | 2-[5-(1,1-difluoro-ethyl)-furan-2-ylmethyl]-2H-[1,2,3]triazol-4-ylamine | FC(C)(F)C1=CC=C(O1)CN1N=CC(=N1)N | C9H10F2N4O
reactant | 5-(3-fluoro-5-methyl-phenyl)-2-methyl-oxazole-4-carboxylic acid | FC=1C=C(C=C(C1)C)C1=C(N=C(O1)C)C(=O)O | C12H10FNO3
product | 5-(3-Fluoro-5-methyl-phenyl)-2-methyl-oxazole-4-carboxylic acid {2-[5-(1,1-difluoro-ethyl)-furan-2-ylmethyl]-2H-[1,2,3]triazol-4-yl}-amide | FC(C)(F)C1=CC=C(O1)CN1N=CC(=N1)NC(=O)C=1N=C(OC1C1=CC(=CC(=C1)C)F)C | C21H18F3N5O3
